US04535183
Ethyl 4-(3-acetylamino-2-formylphenoxymethyl)benzoate (0.45 g, 0.00132 N) was suspended in 95% ethanol (10 ml) with stirring and treated with 1N sodium hydroxide solution (1.32 ml) over 1 hour. The mixture was then diluted with water (3 ml) and stirred at room temperature overnight. A further 15 ml of water was added and the mixture stirred at room temperature (4 hr). The mixture was then extracted with ethyl acetate and the aqueous phase acidified with concentrated hydrochloric acid with cooling. The precipitated solid was filtered off, washed well with water, and recrystallised from ethanol to give 4-(3-acetylamino-2-formylphenoxymethyl)benzoic acid, m.p. 242°-244° C. (dec.) (Found: C, 65.27; H, 4.93; M, 4.23%. C17H15NO5 requires C, 65.17; H, 4.83; N, 4.47%).

reactant | Ethyl 4-(3-acetylamino-2-formylphenoxymethyl)benzoate | 0.00132 N, 0.45 g | C(C)(=O)NC=1C(=C(OCC2=CC=C(C(=O)OCC)C=C2)C=CC1)C=O | C19H19NO5
reactant | sodium hydroxide | 1N, 1.32 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4-(3-acetylamino-2-formylphenoxymethyl)benzoic acid | C(C)(=O)NC=1C(=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)C=O | C17H15NO5
